US05840892
(b2) Preparation of methyl (+/-)-2-(4,6-dimethoxy-2-pyrimidinyloxy)-3,3-dimethylbutanoate
2.18 g (10.0 mmol) of 4,6-dimethoxy-2-methyl-sulfonylpyrimidine and 1.62 g (11.0 mmol) of methyl (+/-)-2-hydroxy-3,3-dimethylbutanoate were heated in the presence of 2.07 g (15.0 mmol) of potassium carbonate in 20 ml of N,N-dimethylformamide to 60° with stirring. After 3 hours, the solvent was removed in a rotary evaporator at 60° C./20 mbar. The residue was taken up in 40 ml of water and 40 ml of ethyl acetate. After the organic phase had been separated off, the aqueous phase was again extracted with 40 ml of ethyl acetate. The combined organic phases was washed with water, dried over magnesium sulfate and evaporated. The title product was obtained in a yield of 2.76 g (93.8 percent of theory) in the form of pale yellowish crystals (GC content 96.6 percent).

reactant | 4,6-dimethoxy-2-methyl-sulfonylpyrimidine | 10.0 mmol, 2.18 g | COC1N=C(N=C(C1=S(=O)=O)OC)C | C7H10N2O4S
reactant | methyl (+/-)-2-hydroxy-3,3-dimethylbutanoate | 11.0 mmol, 1.62 g | OC(C(=O)OC)C(C)(C)C | C7H14O3
reactant | potassium carbonate | 15.0 mmol, 2.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | methyl (+/-)-2-(4,6-dimethoxy-2-pyrimidinyloxy)-3,3-dimethylbutanoate | COC1=NC(=NC(=C1)OC)OC(C(=O)OC)C(C)(C)C | C13H20N2O5
